US05506190
N-(2-Fluoro-4-chloro-5-cyclopentyloxyphenyl)-3,4,5,6-tetrahydroisophthalimide (1.00 g, 2.75 mmol), 3-trifluoromethylcumylamine (0.730 g, 3.59 mmol), N-methylmorpholine (0.320 g, 3.16 mmol), and benzene (15 ml) as a solvent were placed into a round bottom flask (50 cc) and stirred overnight at room temperature. After completion of the reaction, the solvent was distilled off under reduced pressure, and the resulting crude product was recrystallized from chloroform/acetone to obtain N-(2-fluoro-4-chloro-5-cyclopentyloxyphenyl)-N'-(3-trifluoromethylcumyl)-3,4,5,6-tetrahydrophthalamide as white crystals (0.360 g, 23.1% yield).

reactant | N-(2-Fluoro-4-chloro-5-cyclopentyloxyphenyl)-3,4,5,6-tetrahydroisophthalimide | 2.75 mmol, 1.00 g | FC1=C(C=C(C(=C1)Cl)OC1CCCC1)N1C(C2=CC(C1=O)CCC2)=O | C19H19ClFNO3
reactant | 3-trifluoromethylcumylamine | 3.59 mmol, 0.730 g | FC(C=1C=C(C(C)(C)N)C=CC1)(F)F | C10H12F3N
reactant | N-methylmorpholine | 3.16 mmol, 0.320 g | CN1CCOCC1 | C5H11NO
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
product | N-(2-fluoro-4-chloro-5-cyclopentyloxyphenyl)-N'-(3-trifluoromethylcumyl)-3,4,5,6-tetrahydrophthalamide | 0.360 g, 23.1% yield | FC1=C(C=C(C(=C1)Cl)OC1CCCC1)NC(C1=C(C(=O)NC(C)(C)C2=CC(=CC=C2)C(F)(F)F)CCCC1)=O | C29H31ClF4N2O3
